* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJU7067
*Vwesion:2
*CMOS OPAMP
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.Subckt NJU7067 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X_U1 +IN1 -IN1 V+ V- OUT1 NJU7067_s
X_U2 +IN2 -IN2 V+ V- OUT2 NJU7067_s
.ends NJU7067
*$
* connections:         non-inverting input
*                      | inverting input
*                      | | positive power supply
*                      | | | negative power supply
*                      | | | | output
*                      | | | | |
.subckt NJU7067_s      1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CS 10 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 20 10 DMOD2
VTL 20 4 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 10 4 {ITL}
M1 11 2 13 13 NMOS1 
M2 12 NET1 14 14 NMOS2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 11 21 {RD1}
RD2 12 22 {RD2}
VRD1 3 21 {VRD}
VRD2 3 22 {VRD}
RS2 14 10 {RS2}
RS1 13 10 {RS1}
IDS 3 4 {IDS}
RP 3 4 {RP}
Vos 1 NET1 DC {VOS}
VS 19 4 DC {VS}
VD 3 18 DC {VD}

.MODEL DMOD1 D(T_MEASURED = 25 IS = 2.84E-29)
.MODEL DMOD2 D(T_MEASURED = 25 IS = 8.00E-16)
.MODEL NMOS1 NMOS(LEVEL = 1 VTO = 4.89E-01
+ KP = 1.78E-04 L = {L_VAL} W = {W_VAL} TOX = 1.30E-08 U0 = 6.70E+02)
.MODEL NMOS2 NMOS(LEVEL = 1 VTO = 4.89E-01
+ KP = 1.78E-04 L = {L_VAL} W = {W_VAL} TOX = 1.30E-08 U0 = 6.70E+02)
*
.PARAM
+ C1   = 1.65E-11
+ C2   = 1.19E-10
+ CS   = 4.76E-11
+ GCM  = 4.51E-09
+ GA   = 4.51E-05
+ GB   = 2804.41
+ GC   = 74782.36823
+ ITL  = 5.00E-06
+ RD1  = 22170.84
+ RD2  = 22170.84
+ RC   = 1.34E-05
+ RS1  = 17842.99
+ RS2  = 17842.99
+ RO1  = 50
+ RO2  = 25
+ RP   = 6.67E+06
+ VD   = 0.8264081
+ VS   = 0.82627609
+ VOS  = 0.797612E-03
+ IDS  = 8.3E-6
+ VTL  = 8.64E-02
+ VRD  = 2.05E+00
+ L_VAL= 2.00E-06
+ W_VAL= 1.20E-04

.ends NJU7067_s
*$
